US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a suspension of 947 mg of (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylic acid in 180 ml of water was added 7.8 ml of 0.1 N aqueous sodium hydrogen carbonate, and the mixture was stirred at room temperature for 2 hours to form a solution, which was then frozen. The frozen solution was dissolved in 12 ml of dry DMF, mixed with 0.36 ml of iodomethyl pivalate under the atmosphere of argon at −30° C., and stirred for 1.5 hours during which the temperature was raised up to −10° C. The reaction mixture was diluted with 100 ml of ethyl acetate, and washed with 100 ml of semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a total volume of 5 ml. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol 10:1) and on Sephadex LH-20 (chloroform:methanol=1:1) in this sequence to give 576 mg of the title compound.

reactant | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylic acid | 947 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=CN=C3)C(=O)O)C1=O | C15H15N3O4S
reactant | sodium hydrogen carbonate | 0.1 N, 7.8 ml | C(O)([O-])=O.[Na+]
reactant | iodomethyl pivalate | 0.36 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | water | 180 ml | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 576 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=CN=C3)C(=O)OCOC(C(C)(C)C)=O)C1=O | C21H25N3O6S
